US08859535B2
N-methoxy-N-methyl-2-oxopiperidine-4-carboxamide
To a stirred solution of 2-oxopiperidine-4-carboxylic acid (CAS #24537-50-6) (1.4 g, 9.78 mmol) in DCM (20 ml) was added portion wise CDI (1.665 g, 10.27 mmol). The suspension was stirred at room temperature for 5 hrs and N,O-dimethylhydroxylamine (1.002 g, 10.27 mmol) was added to the suspension and the reaction mixture was stirred overnight at room temperature. HCl (4M) in 1,4-dioxane (2.445 ml, 9.78 mmol) was added to the cloudy brown-orange solution and the reaction was stirred for 30 min (pH 7). The white precipitate was filtered off and the filtrate was washed with aqueous NaHCO3 solution. The organic phase was dried over Na2SO4, filtered and concentrated in vacuo to obtain the title compound as brown liquid.

reactant | 2-oxopiperidine-4-carboxylic acid | 9.78 mmol, 1.4 g | O=C1NCCC(C1)C(=O)O | C6H9NO3
reactant | CDI | 10.27 mmol, 1.665 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | N,O-dimethylhydroxylamine | 10.27 mmol, 1.002 g | CNOC | C2H7NO
reactant | HCl | 4M | Cl | ClH
reactant | 1,4-dioxane | 9.78 mmol, 2.445 ml | O1CCOCC1 | C4H8O2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | N-methoxy-N-methyl-2-oxopiperidine-4-carboxamide | CON(C(=O)C1CC(NCC1)=O)C | C8H14N2O3
